US07320994B2
(4-methoxy-benzyloxy)-acetic acid hydrazide
Add hydrazine hydrate (2.1 mL, 42.1 mmol) and pyridine (0.3 mL, 3.8 mmol) to a solution of (4-methoxy-benzyloxy)-acetic acid methyl ester (8.05 g, 38.3 mmol) in ethanol (100 mL, absolute). Heat the reaction to reflux under N2 overnight. Concentrate; add toluene and concentrate (2 times). Purify the residue by flash chromatography on silica gel eluting with 0-40% ACN/CH2Cl2 to afford the title compound (6.42 g, 80%) as clear oil. 1H NMR (400 MHz, DMSO) δ 3.73 (s, 3H); 3.84 (s, 2H); 4.24 (bs, 2H); 4.42 (s, 2H); 6.89 (d, 2H, J=8.3 Hz); 7.27 (d, 2H, J=8.3 Hz); 9.00 (bs, 1H). MS(IS) 209 (M−).

reactant | hydrazine hydrate | 42.1 mmol, 2.1 mL | O.NN
reactant | pyridine | 3.8 mmol, 0.3 mL | N1=CC=CC=C1 | C5H5N
reactant | (4-methoxy-benzyloxy)-acetic acid methyl ester | 38.3 mmol, 8.05 g | COC(COCC1=CC=C(C=C1)OC)=O | C11H14O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (4-methoxy-benzyloxy)-acetic acid hydrazide | 6.42 g, 80% | COC1=CC=C(COCC(=O)NN)C=C1 | C10H14N2O3
